US08222248B2
To a solution of 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoro-1-hydroxyethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester (475 mg) in methylene chloride (15 mL) was added Dess-Martin reagent (527 mg) and the mixture was stirred at ambient temperature for 18 h. The mixture was washed with water and sodium bicarbonate solution then was dried over sodium sulfate. The solvent was removed under reduced pressure to give 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoroacetyl)-benzoimidazole-1-carboxylic acid tert-butyl ester as a gummy solid. The material was used directly in the next reaction.

reactant | 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoro-1-hydroxyethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 475 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C(C(F)(F)F)O)C2=C(C=CC=C2C)C | C22H23F3N2O3
reactant | Dess-Martin reagent | 527 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,6-dimethylphenyl)-6-(2,2,2-trifluoroacetyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C(C(F)(F)F)=O)C2=C(C=CC=C2C)C | C22H21F3N2O3
